US04940718
Under a nitrogen atmosphere, sodium hydride (6.41 g, 0.267 mol) and THF (125 ml) were combined and the suspension was cooled to -15° C. A THF solution (150 ml) of (phenylsulfonyl)acetone (50 g, 0.253 mol) was added to the suspension in a dropwise fashion over an hour. The resultant mixture was stirred for an additional 20 minutes at -15° C. Allyl bromoacetate (47.5 g, 0.265 mol) dissolved in THF (100 ml) was added in a dropwise fashion to the mixture over a period of 30 minutes while maintaining the temperature of the solution below 0° C. The resultant solution was stirred at -5° C. for 15 minutes, allowed to warm to room temperature over a period of an hour, and stirred overnight at room temperature. The reaction solution was poured into saturated aqueous ammonium chloride solution (800 ml) and chloroform (500 ml) and the aqueous layer was separated and extracted with chloroform (2X, 200 ml). The chloroform layers were combined and washed with saturated aqueous sodium chloride (1X, 350 ml), dried over sodium sulfate, filtered and concentrated in vacuo to an oil. The oil was crystallized from a mixture of ethyl acetate and hexane. The collected solid was washed with cold 1:3 ethyl acetate:hexane and dried in vacuo, yielding 52.9 g of the allyl 3-(phenylsulfonyl)-4-oxopentanoate: n.m.r. (90 MHz, CDCl3): δ 2.51 (s, 3), 2.97 (n, 2,), 4.51 (dm, 2, J=6), 4.65 (m, 1), 5.1-5.19 (m,2), 5.58-6.00 (m, 1), 7.4-7.8 (m, 5); m.p. 62-64° C.

reactant | sodium hydride | 0.267 mol, 6.41 g | [H-].[Na+]
reactant | (phenylsulfonyl)acetone | 0.253 mol, 50 g | C1(=CC=CC=C1)S(=O)(=O)CC(C)=O | C9H10O3S
reactant | Allyl bromoacetate | 0.265 mol, 47.5 g | BrCC(=O)OCC=C | C5H7BrO2
reactant | ammonium chloride | 800 ml | [Cl-].[NH4+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | THF | 125 ml | C1CCOC1 | C4H8O
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
product | allyl 3-(phenylsulfonyl)-4-oxopentanoate | 52.9 g | C1(=CC=CC=C1)S(=O)(=O)C(CC(=O)OCC=C)C(C)=O | C14H16O5S
